* C:\Users\sofia\EMSIndividual\Report-sofia\LTSpice\Draft2.asc
C3 N002 vi 40.57n
R3 N002 0 120.92k
XU1 N002 N005 vdd vss N003 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R5 N005 0 18k
R4 N003 N005 66.299k
R1 N001 N003 3.33k
R2 N004 N001 62.9k
C2 N004 0 0.9n
C1 vout N001 0.9n
XU2 N004 vout vdd vss vout level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 vss 0 -5
V2 vdd 0 5
V3 vi 0 1 AC 1
V4 NC_01 0 PULSE(0 1 1 1u 1u 10)
C4 N007 v2 40.57n
R6 N007 0 120.92k
XU3 N008 N012 vdd vss N009 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R7 N012 0 18k
R8 N009 N012 66.299k
R9 N006 N009 3.33k
R10 N010 N006 62.9k
C5 N010 0 0.9n
C6 vout1 N006 0.9n
XU4 N011 vout1 vdd vss vout1 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V5 NC_02 0 0 AC 0
V6 v2 0 PULSE(0 0 1 1u 1u 10)
Vos2 N010 N011 1
Vos1 N007 N008 1
C7 N013 vi 40.57n
R11 N013 0 120.92k
XU5 N013 N014 vdd vss vout2 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R12 N014 0 18k
R13 vout2 N014 66.299k
R19 N015 vi 3.33k
R20 N016 N015 62.9k
C11 N016 0 0.9n
C12 vout3 N015 0.9n
XU8 N016 vout3 vdd vss vout3 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.ac dec 1000 100m 10Meg
;.tran 10
.lib UniversalOpAmp2.lib
.backanno
.end
